US08466282B2
1-tert-butyl 3-methyl(3R,5S)-5-[{[5-(hydroxymethyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate
1-tert-Butyl 3-methyl(3R,5S)-5-[({5-[(benzyloxy)methyl]-1-phenyl-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1,3-dicarboxylate (2.92 g) and palladium(II) hydroxide-carbon (500 mg) were suspended in methanol, and the mixture was stirred under a hydrogen atmosphere (5 atom) at room temperature for 10 hr. The palladium catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give the object product (2.39 g) as a solid.

reactant | 1-tert-Butyl 3-methyl(3R,5S)-5-[({5-[(benzyloxy)methyl]-1-phenyl-1H-1,2,3-triazol-4-yl}carbonyl)(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 2.92 g | C(C1=CC=CC=C1)OCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C33H43N5O6
solvent | methanol | CO | CH4O
catalyst | palladium(II) hydroxide carbon | 500 mg | [OH-].[Pd+2].[OH-].[C]
product | 1-tert-butyl 3-methyl(3R,5S)-5-[{[5-(hydroxymethyl)-1-phenyl-1H-1,2,3-triazol-4-yl]carbonyl}(2-methylpropyl)amino]piperidine-1,3-dicarboxylate | 2.39 g | OCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC)CC(C)C | C26H37N5O6
